US07855194B2
(6-Chloro-4-morpholin-4-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(6-chloro-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.6 g, 1.34 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 348.4 [M+H]+.

reactant | 4-(6-chloro-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.34 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=C(C=C2C(=N1)N1CCOCC1)Cl | C22H30ClN5O3
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (6-Chloro-4-morpholin-4-yl-quinazolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC=1C=C2C(=NC(=NC2=CC1)NC1CCNCC1)N1CCOCC1 | InChI=1S/C17H22ClN5O.2ClH/c18-12-1-2-15-14(11-12)16(23-7-9-24-10-8-23)22-17(21-15)20-13-3-5-19-6-4-13;;/h1-2,11,13,19H,3-10H2,(H,20,21,22);2*1H
